US07932272B2
Quinoline-6-carboxylic acid (3-benzyloxyphenyl)-amide
Thionyl chloride (2 mL) was added to 6-quinolinecarboxylic acid (100 mg, 0.577 mmol), and the solution was stirred for 2 hours under reflux. Then, the solution was allowed to cool to room temperature, and excess thionyl chloride was evaporated in vacuo. The obtained residue was dissolved in N,N-dimethylformamide (2 mL), 3-benzyloxyaniline (115 mg, 0.577 mmol), triethylamine (0.12 mL, 0.866 mmol) and dimethylaminopyridine (1 mg) were added, and the solution was stirred overnight at room temperature. Ethyl acetate and water were added to the reaction solution, which was then partitioned, the organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1), and the title compound (53 mg, 26%) was obtained as a white solid.

reactant | Thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 6-quinolinecarboxylic acid | 0.577 mmol, 100 mg | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | 3-benzyloxyaniline | 0.577 mmol, 115 mg | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1 | C13H13NO
reactant | triethylamine | 0.866 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
catalyst | dimethylaminopyridine | 1 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Quinoline-6-carboxylic acid (3-benzyloxyphenyl)-amide | 53 mg, 26% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC(=O)C=1C=C2C=CC=NC2=CC1 | C23H18N2O2
